US07053117B2
2-Amino-3-cyano-4-(5-cyano-pyridin-3-yl)-4H-indolo[7,6-b]pyran
The title compound was prepared from 5-formyl-nicotinonitrile, malononitrile and 7-hydroxyindole by a procedure similar to Example 57 in 59% yield. 1H-NMR (Acetone-d6): 10.54 (brs, 1H), 8.84 (m, J=2.20, 1.90 Hz, 2H), 8.12 (t, J=2.20, 1.90 Hz, 1H), 7.39 (m, J=3.03 Hz, 1H), 7.32 (dd, J=8.00 Hz, 1H), 6.68 (dd, J=8.20 Hz, 1H), 6.51 (m, J=3.03 Hz, 1H), 6.22 (s, 2H), 5.13 (s, 1H).

reactant | 5-formyl-nicotinonitrile | C(=O)C=1C=NC=C(C#N)C1 | C7H4N2O
reactant | malononitrile | C(CC#N)#N | C3H2N2
reactant | 7-hydroxyindole | OC=1C=CC=C2C=CNC12 | C8H7NO
product | 2-Amino-3-cyano-4-(5-cyano-pyridin-3-yl)-4H-indolo[7,6-b]pyran | 59% yield | NC1=C(C(C=2C(O1)C1=NC=CC1=CC2)C=2C=NC=C(C2)C#N)C#N | C18H11N5O
